US07022725B2
To a mixture of 5-(5-chloro-2-thienyl)-4-isoxazolylmethanol (6.54 g), tetrahydrofuran (20 ml) and toluene (100 ml) was added dropwise thionyl chloride (5.41 g) at 0° C., and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, saturated aqueous sodium hydrogencarbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and crystals of 4-chloromethyl-5-(5-chloro-2-thienyl)isoxazole (6.98 g, yield 98%) were obtained from a fraction eluted with ethyl acetate-hexane (1:5, volume ratio) and recrystallized from ethyl acetate-hexane to give a colorless prism. melting point: 70–71° C.

reactant | 5-(5-chloro-2-thienyl)-4-isoxazolylmethanol | 6.54 g | ClC1=CC=C(S1)C1=C(C=NO1)CO | C8H6ClNO2S
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | thionyl chloride | 5.41 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloromethyl-5-(5-chloro-2-thienyl)isoxazole | 6.98 g, yield 98% | ClCC=1C=NOC1C=1SC(=CC1)Cl | C8H5Cl2NOS
